US07091214B2
A suspension of 1-(4-aminobutyl)-7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine (3.27 g, 8.7 mmol) and triethylamine (3.82 mL, 11.3 mmol) in chloroform (165 mL) was cooled to 0° C. A cold solution of methanesulfonyl chloride (1.37 mL, 9.6 mmol) in chloroform (10 mL) was slowly added. The reaction was allowed to warm to ambient temperature after 15 minutes. Additional triethylamine (3.74 mL) and methanesulfonyl chloride (2.12 mL) were added over the course of several days to drive the reaction to completion. The reaction was concentrated under reduced pressure, and the residue was partitioned between 1% aqueous sodium carbonate and chloroform. The aqueous layer was adjusted to pH 13 with the addition of saturated aqueous sodium bicarbonate and 50% aqueous sodium hydroxide. The precipitate was isolated by filtration, air-dried, and combined with material from another run. The crude product was recrystallized from isopropanol:water (15 mL/g:1.5 mL/g) and dried in a drying oven for several days to provide 1.48 g of N-{4-[4-amino-7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl]butyl}methanesulfonamide as a white solid.

reactant | 1-(4-aminobutyl)-7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 8.7 mmol, 3.27 g | NCCCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)Br)N)CCC | C17H22BrN5
reactant | triethylamine | 11.3 mmol, 3.82 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 9.6 mmol, 1.37 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 3.74 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.12 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | chloroform | 165 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | N-{4-[4-amino-7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl]butyl}methanesulfonamide | 1.48 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCCCNS(=O)(=O)C)CCC)Br | C18H24BrN5O2S
